US04826869
1-Butyl-2-(3'-ureidobenzyl)-5-ethylpyrrole
A solution of 6.1 g (23 mmol) of 1-butyl-2-(3'-aminobenzoyl)-5-ethylpyrrole in 50 ml of anhydrous tetrahydrofuran was added dropwise, at room temperature, to a stirred suspension of 1 g (28 mmol) of lithium aluminum hydride in 100 ml of anhydrous tetrahydrofuran. The resulting mixture was refluxed for 15 minutes, cooled to 0° C. and the excess reagent sodium sulfate solution and solid anhydrous sodium sulfate. The insoluble material was separated by filtration and the filtrate evaporated in vacuo. The unstable crude alcohol thus obtained, 1-butyl-2-(3'-amino-α-hydroxybenzyl)-5-ethylpyrrole (6.1 g, 23 mmol) was dissolved in 75 ml of methanol, cooled to -10° C. and treated with 13 ml of glacial acetic acid and 2.8 g (44 mmol) of sodium cyanoborohydride. The reaction mixture was stirred at room temperature for 1 hour, poured into 200 ml of saturated sodium carbonate solution and the product extracted with ethyl acetate (4×300 ml). The combined extracts were washed with water (3×150 ml), dried and evaporated under reduced pressure. The residue was purified by column chromatography on 300 g of silica gel using hexane-acetone (95:5) as eluant, thus obtaining 3.5 mg (61%) of the title compound, 1-butyl-2-(3'-aminobenzyl)-5-ethylpyrrole, as an oil.

reactant | 1-butyl-2-(3'-aminobenzoyl)-5-ethylpyrrole | 23 mmol, 6.1 g | C(CCC)N1C(=CC=C1CC)C(C1=CC(=CC=C1)N)=O | C17H22N2O
reactant | lithium aluminum hydride | 28 mmol, 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-butyl-2-(3'-amino-α-hydroxybenzyl)-5-ethylpyrrole | 23 mmol, 6.1 g | C(CCC)N1C(=CC=C1CC)C(C1=CC(=CC=C1)N)O | C17H24N2O
reactant | sodium cyanoborohydride | 44 mmol, 2.8 g | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | 200 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 75 ml | CO | CH4O
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
product | 1-Butyl-2-(3'-ureidobenzyl)-5-ethylpyrrole | 3.5 mg, 61% | C(CCC)N1C(=CC=C1CC)CC1=CC(=CC=C1)NC(=O)N | C18H25N3O
